US05939446
B. 2-Borono-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide
A 1.7 M solution of t-BuLi in pentane (5.0 ml; 8.50 mmol) was added over ~10 minutes to a solution of 2-bromo-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide (1.62 g; 3.86 mmol) in THF at -100° C. The temperature was kept below -80° C. during the addition. After stirring 5 minutes at -100° C., trimethylborate (0.53 ml; 4.63 mmol) was added in one portion and the reaction mixture was allowed to warm to room temperature over several hours. At this time, 15 ml of 10% HCl was added and the mixture was extracted with methylene chloride (3×50 ml). The combined organic layers were washed with water (50 ml) and brine (50 ml). Drying (MgSO4), and concentration afforded a yellow oil. The residue was then partitioned between ether (50 ml) and 0.5 N NaOH (20 ml). The ether layer was extracted with 10 ml of 0.5N NaOH. The combined basic layers were washed with ether (50 ml), acidified to pH ~1.5 with saturated KHSO4 solution and extracted with methylene chloride (3×50 ml). Drying (MgSO4) and concentration afforded 1.04 g (70%) of the title product of this step as a light yellow foamy oil.

reactant | t-BuLi | [Li]C(C)(C)C
reactant | pentane | 8.50 mmol, 5.0 ml | CCCCC | C5H12
reactant | 2-bromo-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | 3.86 mmol, 1.62 g | BrC1=C(C=CC=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NO1)C)C | C15H19BrN2O5S
reactant | trimethylborate | 4.63 mmol, 0.53 ml | COB(OC)OC | C3H9BO3
reactant | HCl | 15 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-Borono-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | 1.04 g, 70% | B(O)(O)C1=C(C=CC=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NO1)C)C | C15H21BN2O7S
